US07157408B2
Preparation of 5,7-dibromo-8-(2-methoxycarbonyloxyethyl)quinoline.
Triphosgene, 740 mg (2.5 mmol) was dissolved in 5 mL of anhydrous dioxane and stirred at ambient temperature while 5,7-dibromo-8-(2-hydroxyethyl)quinoline was added in several portions. The mixture was stirred overnight and capped to protect from atmospheric moisture. The solvent and excess reagent were removed under a stream of dry argon. Residue was redissolved in 10 mL of methanol, stirring for 1 hr., and the solvent was removed. The residue was recrystallized from methanol/water. Melting point: 102.5104.5° C.

reactant | Triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 5,7-dibromo-8-(2-hydroxyethyl)quinoline | BrC1=C2C=CC=NC2=C(C(=C1)Br)CCO | C11H9Br2NO
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 5,7-dibromo-8-(2-methoxycarbonyloxyethyl)quinoline | BrC1=C2C=CC=NC2=C(C(=C1)Br)CCOC(=O)OC | C13H11Br2NO3
